US08629168B2
g) 2,N,N-Trimethyl-4-nitro-benzamide
A solution of 2 g (10.7 mmol) 2-methyl-4-nitro-benzoic acid, 1.32 ml (11.8 mmol) N-methyl-morpholine, 2.36 g (12 mmol) EDC-HCl and 2.36 g (12 mmol) HOBt in 50 ml dichloromethane is stirred at RT for 45 min, then dimethylamine solution (5.9 ml, 33% in EtOH) is added and the reaction mixture is heated to 40° C. and stirred at this temperature for 20 h. Another 1.32 ml (11.8 mmol) N-methyl-morpholine, 2.36 g (12 mmol) EDC-HCl and 2.36 g (12 mmol) HOBt (hydroxyl-benzotriazole) are added and stirred for 45 min, the again dimethylamine solution (5.9 ml, 33% in EtOH) is added and the reaction mixture is stirred at 40° C. for 35 h. After that the reaction mixture is cooled to RT and poured onto EtOAc/water. The organic layer is washed with sat. NAHCO3 solution and with water, dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, hexane:EtOAc=1:1=>EtOAc) to afford the title compound as a yellowish oil.

reactant | 2-methyl-4-nitro-benzoic acid | 10.7 mmol, 2 g | CC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4
reactant | N-methyl-morpholine | 11.8 mmol, 1.32 ml | CN1CCOCC1 | C5H11NO
reactant | EDC-HCl | 12 mmol, 2.36 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 12 mmol, 2.36 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dimethylamine | 5.9 ml | CNC | C2H7N
reactant | N-methyl-morpholine | 11.8 mmol, 1.32 ml | CN1CCOCC1 | C5H11NO
reactant | EDC-HCl | 12 mmol, 2.36 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 12 mmol, 2.36 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dimethylamine | 5.9 ml | CNC | C2H7N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,N,N-Trimethyl-4-nitro-benzamide | CC1=C(C(=O)N(C)C)C=CC(=C1)[N+](=O)[O-] | C10H12N2O3
